US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-[(4R)-2-oxo-4-(propan-2-yl)-1,3-oxazolidin-3-yl]thiophene-2-carboxamide
A solution of 5-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide (84 mg, 0.25 mmol), (R)-4-isopropyloxazolidin-2-one (32 mg, 0.25 mmol), N,N-dimethylethane-1,2-diamine (2 mg, 0.025 mmol), copper(I) iodide (5 mg, 0.025 mmol) and potassium carbonate (121 mg, 0.88 mmol) in dioxane (1 ml) was stirred at 110° C. overnight. Concentration and reverse phase chromatography provided the title compound. 1H NMR (400 MHz, methanol-d4) δ ppm 9.13 (t, J=5.3 Hz, 1H), 8.74 (d, J=5.5 Hz, 1H), 8.17 (s, 1H), 7.99 (s, 1H), 7.79 (s, 1H), 7.62 (d, J=4.1 Hz, 1H), 7.47 (d, J=7.0 Hz, 1H), 6.77 (d, J=4.2 Hz, 1H), 4.72 (s, 2H), 4.61-4.42 (m, 3H), 2.46 (ddd, J=10.2, 6.9, 3.5 Hz, 1H), 1.00 (d, J=7.0 Hz, 3H), 0.85 (d, J=6.8 Hz, 3H); (APCI(+)) m/e 385 (M+H)+.

reactant | 5-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide | 0.25 mmol, 84 mg | BrC1=CC=C(S1)C(=O)NCC1=CC=2N(C=C1)C=CN2 | C13H10BrN3OS
reactant | (R)-4-isopropyloxazolidin-2-one | 0.25 mmol, 32 mg | C(C)(C)[C@H]1NC(OC1)=O | C6H11NO2
reactant | N,N-dimethylethane-1,2-diamine | 0.025 mmol, 2 mg | CN(CCN)C | C4H12N2
reactant | potassium carbonate | 0.88 mmol, 121 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 0.025 mmol, 5 mg | [Cu]I
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-[(4R)-2-oxo-4-(propan-2-yl)-1,3-oxazolidin-3-yl]thiophene-2-carboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)C=2SC(=CC2)N2C(OC[C@H]2C(C)C)=O | C19H20N4O3S
